US07071175B1
To a suspension of NaH (0.49 g, 16.3 mmol, 80%) in THF (15 mL) at 0° C. was added diethyl malonate (2.61 g, 16.3 mmol). The mixture was stirred for 15 min and was then added dropwise to a refluxed mixture of (5-bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (3.90 g, 13.6 mmol) in THF (25 mL), and the resulting solution was refluxed for 15 min. After evaporation of the solvent, the crude product was purified by flash chromatography (methanol/CH2Cl2, 1:100→2.5:100) to give 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-malonic acid diethyl ester (2.18 g, 44%).

reactant | NaH | 16.3 mmol, 0.49 g | [H-].[Na+]
reactant | diethyl malonate | 16.3 mmol, 2.61 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | (5-bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 13.6 mmol, 3.90 g | C(C)(C)(C)OC(NC1=NC=C(C=C1)CBr)=O | C11H15BrN2O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-malonic acid diethyl ester | 2.18 g, 44% | C(C)OC(C(C(=O)OCC)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C18H26N2O6
